US09238631B2
b) di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-{[1-(2-hydroxyethyl)-1H-1,2,3-triazol-4-yl]methyl}-L-glutamate
Di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-prop-2-yn-1-yl-L-glutamate (150 mg, 377 μmol) and 2-azidoethanol (49 mg, 566 μmol) were dissolved in tetrahydrofuran (3.75 ml). To the solution, copper(I) iodide (7.2 mg, 38 μmol) and N,N-diisopropylethylamine (79 μl, 453 μmol) were added and the mixture was stirred for 12 h at room temperature. The mixture was then concentrated in vacuo and the residue was purified by preparative reversed phase HPLC to yield 62 mg (34%) of the product.

reactant | Di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-prop-2-yn-1-yl-L-glutamate | 377 μmol, 150 mg | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC#C)C(=O)OC(C)(C)C | C21H35NO6
reactant | 2-azidoethanol | 566 μmol, 49 mg | N(=[N+]=[N-])CCO | C2H5N3O
reactant | N,N-diisopropylethylamine | 453 μmol, 79 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 3.75 ml | O1CCCC1 | C4H8O
catalyst | copper(I) iodide | 38 μmol, 7.2 mg | [Cu]I
product | di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-{[1-(2-hydroxyethyl)-1H-1,2,3-triazol-4-yl]methyl}-L-glutamate | 62 mg, 34% | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC=1N=NN(C1)CCO)C(=O)OC(C)(C)C | C23H40N4O7
